US07381719B2
Dissolve N-benzyl-2-(4-hydroxy-phenyl)-propionamide (13.25 g, 51.9 mmol) in anhydrous tetrahydrofuran (100 mL) and add via a cannula to borane-tetrahydrofuran complex (1.0M in tetrahydrofuran, 300 mL, 300 mmol) under nitrogen. Heat the reaction to reflux for 18 h under nitrogen. Cool the reaction to 0° C. and quench with 6 M hydrochloric acid. Concentrate the tetrahydrofuran on a rotary evaporator to give the crude product. Add water (50 mL) and tetrahydrofuran (30 mL) to the crude product and heat the reaction to reflux for 1 h. Cool the reaction to room temperature and adjust the pH to pH=8 with 5 N sodium hydroxide. Add brine (200 mL) and extract with ethyl acetate (3×200 mL). Dry the ethyl acetate extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. Purify the crude product by flash chromatography on silica gel eluting with 0.7% concentrated ammonium hydroxide/7% ethanol/chloroform to yield 6.55 g (52%) of 4-(2-benzylamino-1-methyl-ethyl)-phenol: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 3.08 minutes, Purity: 99.6%; mass spectrum (ion spray): m/z=242.1 (M+1).

reactant | N-benzyl-2-(4-hydroxy-phenyl)-propionamide | 51.9 mmol, 13.25 g | C(C1=CC=CC=C1)NC(C(C)C1=CC=C(C=C1)O)=O | C16H17NO2
reactant | borane tetrahydrofuran | 300 mmol, 1.0M, 300 mL | B.O1CCCC1
reactant | water | 50 mL | O | H2O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(2-benzylamino-1-methyl-ethyl)-phenol | 6.55 g, 52% | C(C1=CC=CC=C1)NCC(C)C1=CC=C(C=C1)O | C16H19NO
